US04824848
7-Benzyl-2-butyryl-3-methylamino-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A mixture of 7-benzyl-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (0.7 g, 2.2 mM) and butyric anhydride (0.71 g, 4.5 mM) in pyridine (10 ml) was stirred at 60° C. for 24 hours. The reaction solution was concentrated to dryness and the residue was purified by chromatography on silica gel (20 g, chloroform). The crude crystals were recrystallized from acetone/isopropyl ether to give colorless needless (0.61 g, 71%), m.p. 138°-139° C.

reactant | 7-benzyl-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 2.2 mM, 0.7 g | C(C1=CC=CC=C1)N1C(N(C(C2=C1NN=C2NC)=O)CCC)=O | C16H19N5O2
reactant | butyric anhydride | 4.5 mM, 0.71 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 7-Benzyl-2-butyryl-3-methylamino-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C(C1=CC=CC=C1)N1C(N(C(C=2C1=NN(C2NC)C(CCC)=O)=O)CCC)=O | C20H25N5O3
